US04929639
To a solution of (2R,4R,5S)-4-hydroxymethyl-5-[(Z) -6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (272 mg) in N,N-dimethylformamide (10 ml) were added sodium hydride (80 mg, 60% in oil) and 2-picolyl chloride hydrochloride (110 mg) and the mixture was stirred at room temperature overnight. The reaction mixture was quenched with saturated aqueous ammonium chloride and the resulting solution was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified with preparative thin layer chromatography with ethyl acetate as an eluent to give (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl -4-(2-pyridylmethoxymethyl)-1,3-dioxane (201 mg) as a pale yellow oil.

reactant | (2R,4R,5S)-4-hydroxymethyl-5-[(Z) -6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 272 mg | OC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H24O5
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | 2-picolyl chloride hydrochloride | 110 mg | Cl.N1=C(C=CC=C1)CCl
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl -4-(2-pyridylmethoxymethyl)-1,3-dioxane | 201 mg | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)COCC1=NC=CC=C1 | C20H29NO5
